US07728009B1
Step 3. Preparation of 1-ethyl-2-naphthalen-1-yl-1H-imidazole-4-carbaldehyde
To a solution of 4,5-dibromo-1-ethyl-2-naphthalen-1-yl-1H-imidazole (3.80 g, 10 mmol) in anhydrous THF (60 ml) at −78° C. under nitrogen is added a solution of n-BuLi in hexane (1.6 M, 6.88 ml, 11 mmol, 1.1 eq.) dropwise. The resulting mixture is stirred at −78° C. for 1 hr, followed by dropwise addition of TMSCl (1.188 g, 11 mmol, 1.1 eq.). The resulting solution is stirred at −78° C. After 1 hr, n-BuLi in hexane (1.6 M, 6.88 ml, 11 mmol, 1.1 eq.) is added dropwise. The resulting mixture is stirred at −78° C. for 1 hr followed by the addition of anhydrous DMF (3.65 g, 50 mmol, 5.0 eq.). The resulting solution is stirred at −78° C. for 10 min, and then warmed to rt and stirred for additional 10 min. Water (30 ml) is added to quench the reaction, followed by the addition of MeOH (3 ml). The resulting mixture is stirred at rt for 4 hr. The organic solvent is evaporated under reduced pressure and the residue is extracted with EtOAc (50 ml×3). The combined organic layers are washed with water and brine, and dried over Na2SO4. Concentration and purification through silica gel chromatography (hexanes/EtOAc, from 8:1 to 4:1) affords the title compound. LCMS 251 (M+1).

reactant | 4,5-dibromo-1-ethyl-2-naphthalen-1-yl-1H-imidazole | 10 mmol, 3.80 g | BrC=1N=C(N(C1Br)CC)C1=CC=CC2=CC=CC=C12 | C15H12Br2N2
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 11 mmol, 1.6 M, 6.88 ml, 1.1 eq. | CCCCCC | C6H14
reactant | TMSCl | 11 mmol, 1.188 g, 1.1 eq. | C[Si](C)(C)Cl | C3H9ClSi
reactant | hexane | 11 mmol, 1.6 M, 6.88 ml, 1.1 eq. | CCCCCC | C6H14
reactant | DMF | 50 mmol, 3.65 g, 5.0 eq. | CN(C)C=O | C3H7NO
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | MeOH | 3 ml | CO | CH4O
solvent | Water | 30 ml | O | H2O
product | 1-ethyl-2-naphthalen-1-yl-1H-imidazole-4-carbaldehyde | C(C)N1C(=NC(=C1)C=O)C1=CC=CC2=CC=CC=C12 | C16H14N2O
